US05242904
Ac-Ala-Lys(Boc)-OH was prepared by coupling the N-hydroxysuccinimide ester of Ac-Ala-OH, prepared by the method of Anderson et al., J. Am. Chem. Soc. 86: 1839, (1964), to H-Lys(Boc)-OH. The N-hydroxy-succinimide of Ac-Ala-OH (6.25 g, 27.4 mmoles) was dissolved in 30 mL of dioxane and was added to a solution of H-Lys(Boc)-OH (7.50 g, 30.4 mmoles) dissolved in a solution consisting of 30 mL of 1.0N sodium hydroxide and triethylamine (2.12 mL, 15.0 mmoles). The reaction mixture was stirred overnight, then acidified with hydrochloric acid. Sufficient dry sodium chloride to nearly saturate the solution was added. The product was extracted into ethyl acetate and it was washed with 0.2N hydrochloric acid prepared in saturated aqueous sodium chloride. The organic phase was dried over anhydrous sodium sulfate and filtered. Solvent was removed by evaporation. The product was crystallized from ethyl acetate:hexane to yield 7.3 g (mp 86°-89°).

reactant | Ac-Ala-OH | N([C@@H](C)C(=O)O)C(=O)C | C5H9NO3
reactant | H-Lys(Boc)-OH | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C11H22N2O4
reactant | N-hydroxy-succinimide | ON1C(CCC1=O)=O | C4H5NO3
reactant | Ac-Ala-OH | 27.4 mmoles, 6.25 g | N([C@@H](C)C(=O)O)C(=O)C | C5H9NO3
reactant | H-Lys(Boc)-OH | 30.4 mmoles, 7.50 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C11H22N2O4
reactant | sodium hydroxide | 1.0N, 30 mL | [OH-].[Na+]
reactant | triethylamine | 15.0 mmoles, 2.12 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Ac-Ala-Lys(Boc)-OH | N([C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O)C(=O)C | C16H29N3O6
